US05545727
IV Met.
Leu, Ile, Val, Cys

reactant | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | Ile | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | Val | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | Cys | N[C@@H](CS)C(=O)O | C3H7NO2S
product | Met | N[C@@H](CCSC)C(=O)O | C5H11NO2S
